US04885307
Stage B: 1-benzenesulphonyl-1,5-dihydro-5-n-propyloxy-2H-pyrrol-2-one.
To a solution of 3 g of 1,5-dihydro-5-n-propyloxy-2H-pyrrol-2-one, in 80 cm3 of tetrahydrofuran, cooled to -45° C., there is added 13.25 cm3 of a 1.6M solution of N-butyllithium in n-hexane, while maintaining the temperature between -35° and -45° C. After 30 minutes, a solution of 3.74 g of benzenesulphonyl chloride in 12 cm3 of tetrahydrofuran is added at a temperature between -45° and -35° C., then the temperature is allowed to return to the ambient over two hours, followed by evaporating to dryness and chromatographing on silica (eluent: ethyl acetate-n-hexane, 1--1). 2.2 g of the expected product is recovered. m.p. 56°-58° C., crystallized from a mixture of ethyl ether-n-hexane, 1-2. By crystallizing from isopropanol, 1.4 g of the expected product is obtained, m.p. 66°-67° C.

reactant | 1,5-dihydro-5-n-propyloxy-2H-pyrrol-2-one | 3 g | C(CC)OC1C=CC(N1)=O | C7H11NO2
reactant | N-butyllithium | [Li+].CCC[CH2-]
reactant | benzenesulphonyl chloride | 3.74 g | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
solvent | tetrahydrofuran | 80 cm3 | O1CCCC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 12 cm3 | O1CCCC1 | C4H8O
product | 1-benzenesulphonyl-1,5-dihydro-5-n-propyloxy-2H-pyrrol-2-one | 1.4 g | C1(=CC=CC=C1)S(=O)(=O)N1C(C=CC1OCCC)=O | C13H15NO4S
